US08236798B2
1.1 (2R)—N-(4-Amino-3-hydroxy-4-oxo-1-phenylbutan-2-yl)-1-benzyl-5-oxopyrrolidine-2-carboxamide
To the solution of (R)-1-benzyl-5-oxopyrrolidine-2-carboxylic acid (475 mg, 2.167 mmol) in a mixture of 15 ml of THF and 0.5 ml of DMF at 5° C. were successively added 1-hydroxybenzotriazole (365 mg, 2.383 mmol), 3-amino-2-hydroxy-4-phenylbutanamide (421 mg, 2.167 mmol), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (EDC; 457 mg, 2.383 mmol) and DIPEA (0.416 mL; 308 mg, 2.383 mmol). After stirring overnight at room temperature the solvent was evaporated under reduced pressure, water was added to the remaining residue and after stirring for 30 minutes at about 5° C. the precipitate was filtered off. Drying under reduced pressure gave the title compound as an off-white powder (786 mg; yield: 92%) which was used without further purification in the next step.

reactant | (R)-1-benzyl-5-oxopyrrolidine-2-carboxylic acid | 2.167 mmol, 475 mg | C(C1=CC=CC=C1)N1[C@H](CCC1=O)C(=O)O | C12H13NO3
reactant | 1-hydroxybenzotriazole | 2.383 mmol, 365 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 3-amino-2-hydroxy-4-phenylbutanamide | 2.167 mmol, 421 mg | NC(C(C(=O)N)O)CC1=CC=CC=C1 | C10H14N2O2
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 2.383 mmol, 457 mg | Cl.CN(CCCN=C=NCC)C
reactant | DIPEA | 2.383 mmol, 0.416 mL, 308 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
product | (2R)—N-(4-Amino-3-hydroxy-4-oxo-1-phenylbutan-2-yl)-1-benzyl-5-oxopyrrolidine-2-carboxamide | 786 mg, yield: 92% | NC(C(C(CC1=CC=CC=C1)NC(=O)[C@@H]1N(C(CC1)=O)CC1=CC=CC=C1)O)=O | C22H25N3O4
